US09399646B2
Step 3: (E)-4-(2-(4-(Pyridin-2-yl)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)benzaldehyde
A mixture of (E)-4-(1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-1-en-1-yl)benzaldehyde (220 mg, 0.39 mmol), 2-iodopyridine (0.062 mL, 0.58 mmol), and KOH (6M aq., 0.40 mL, 2.34 mmol) in 1,4-dioxane was degassed with nitrogen. PdCl2dppf.DCM (31 mg, 0.04 mmol) was added and the resulting mixture was heated to 70° C. overnight. The mixture was cooled to room temperature and poured into ethyl acetate. The organic phase was washed with brine (3×), dried over sodium sulfate, and purified by flash chromatography on silica gel eluting with 0 to 50% ethyl acetate/hexanes to afford 82 mg of the title compound as a yellow foam. LCMS: 514 (M+H)+.

reactant | (E)-4-(1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-1-en-1-yl)benzaldehyde | 0.39 mmol, 220 mg | O1C(CCCC1)N1N=CC2=CC(=CC=C12)\C(=C(/CC)\C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)\C1=CC=C(C=O)C=C1 | C35H39BN2O4
reactant | 2-iodopyridine | 0.58 mmol, 0.062 mL | IC1=NC=CC=C1 | C5H4IN
reactant | KOH | 2.34 mmol, 6M, 0.40 mL | [OH-].[K+]
reactant | DCM | 0.04 mmol, 31 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4-(2-(4-(Pyridin-2-yl)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)benzaldehyde | 82 mg | N1=C(C=CC=C1)C1=CC=C(C=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=O)C=C1)/CC | C34H31N3O2
